US07129232B2
To a solution of (Z)-2-(5-amino-1,2,4-thiadiazol-3-yl)-2-(1-tert-butoxycarbonyl-1-methylethoxyimino)acetic acid (319 g) in N,N-dimethylacetamide (1.5 L) were added potassium carbonate (113 g) and methanesulfonyl chloride (126 ml) under ice-cooling. The mixture was stirred at 10° C. for 2 hours. The reaction mixture was added to a mixture of ethyl acetate and water. The organic layer was washed with water and brine to give an activated acid solution. On the other hand, a suspension of 4-methoxybenzyl 7β-amino-3-chloromethyl-3-cephem-4-carboxylate hydrochloride (300 g) in a mixture of water (1 L) and ethyl acetate (1 L) was adjusted to pH 6 with triethylamine under ice-cooling. To the resulting mixture was dropwise added the above obtained activated acid solution at 10° C. under stirring. Stirring was continued at 5–10° C. for 1.5 hours keeping pH of the reaction mixture at 6 with triethylamine. The organic layer was separated, washed with water and brine, and evaporated in vacuo. The concentrate was poured into diisopropyl ether (15 L), and the resulting precipitate was collected by filtration and dried to give 4-methoxybenzyl 7β-[(Z)-2-(5-amino-1,2,4-thiadiazol-3-yl)-2-(1-tert-butoxycarbonyl-1-methylethoxyimino)acetamido]-3-chloromethyl-3-cephem-4-carboxylate (495.7 g).

reactant | (Z)-2-(5-amino-1,2,4-thiadiazol-3-yl)-2-(1-tert-butoxycarbonyl-1-methylethoxyimino)acetic acid | 319 g | NC1=NC(=NS1)/C(/C(=O)O)=N/OC(C)(C)C(=O)OC(C)(C)C | C12H18N4O5S
reactant | potassium carbonate | 113 g | C([O-])([O-])=O.[K+].[K+]
reactant | methanesulfonyl chloride | 126 ml | CS(=O)(=O)Cl | CH3ClO2S
reactant | 4-methoxybenzyl 7β-amino-3-chloromethyl-3-cephem-4-carboxylate hydrochloride | 300 g | Cl.N[C@H]1[C@@H]2N(C(=C(CS2)CCl)C(=O)OCC2=CC=C(C=C2)OC)C1=O
solvent | N,N-dimethylacetamide | 1.5 L | CN(C(C)=O)C | C4H9NO
solvent | water | 1 L | O | H2O
solvent | ethyl acetate | 1 L | C(C)(=O)OCC | C4H8O2
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | 4-methoxybenzyl 7β-[(Z)-2-(5-amino-1,2,4-thiadiazol-3-yl)-2-(1-tert-butoxycarbonyl-1-methylethoxyimino)acetamido]-3-chloromethyl-3-cephem-4-carboxylate | 495.7 g | NC1=NC(=NS1)/C(/C(=O)N[C@H]1[C@@H]2N(C(=C(CS2)CCl)C(=O)OCC2=CC=C(C=C2)OC)C1=O)=N/OC(C)(C)C(=O)OC(C)(C)C | C28H33ClN6O8S2
